US07700643B2
2,5-Bis-{5′[6-(tert-butyldimethylsilanyloxy)-hexyl]-[2,2′]bithiophenyl-5-yl}-thieno[3,2-b]thiophene (1)
Tetrakis(triphenylphosphine)palladium(0) (0.05 g) was added to a solution 2,5-dibromothieno[3,2-b]thiophene (0.10 g, 0.34 mmol) in dry THF (30 ml), with stirring, under nitrogen. After 20 min, 2-{5′-[6-(tert-butyl-dimethyl-silanyloxy)-hexyl]-[2,2′]bithiophenyl-5-yl}-4,4,5,5-tetramethyl-[1,3,2}dioxaborolane (0.51 g, 1.01 mmol) and a solution of potassium carbonate (0.28 g, 2.03 mmol) in water (10 ml) were added. The resultant mixture was heated at reflux for 1.5 h. After cooling, water (100 ml) was added and the precipitate filtered off, washed with water and diethyl ether, to give a yellow solid, which was recrystallised with toluene to offer yellow crystals (0.17 g, 57%).

reactant | 2,5-dibromothieno[3,2-b]thiophene | 0.34 mmol, 0.10 g | BrC1=CC2=C(S1)C=C(S2)Br | C6H2Br2S2
reactant | 2-{5′-[6-(tert-butyl-dimethyl-silanyloxy)-hexyl]-[2,2′]bithiophenyl-5-yl}-4,4,5,5-tetramethyl-[1,3,2}dioxaborolane | 1.01 mmol, 0.51 g | C(C)(C)(C)[Si](OCCCCCCC1=CC=C(S1)C=1SC(=CC1)B1OC(C(O1)(C)C)(C)C)(C)C | C26H43BO3S2Si
reactant | potassium carbonate | 2.03 mmol, 0.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.05 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 100 ml | O | H2O
product | 2,5-Bis-{5′[6-(tert-butyldimethylsilanyloxy)-hexyl]-[2,2′]bithiophenyl-5-yl}-thieno[3,2-b]thiophene | [Si](C)(C)(C(C)(C)C)OCCCCCCC1=CC=C(S1)C=1SC(=CC1)C1=CC2=C(S1)C=C(S2)C2=CC=C(S2)C=2SC(=CC2)CCCCCCO[Si](C)(C)C(C)(C)C | C46H64O2S6Si2
